US04632985
(D) 2-(Azidocarbonyl)-5-(benzyloxy)-4-oxo-1,4-dihydropyridine
A solution of concentrated hydrochloric acid (3 ml) in water (10 ml) was cooled to 0° C. and treated with 5-(benzyloxy)-2-(hydrazinocarbonyl)-4-oxo-1,4-dihydropyridine (3 g, 11.58 mmole) to form a thick paste. A solution of sodium nitrite (1.68 g, 23.17 mmole) in water (30 ml) was added in 2 ml portions with mechanical swirling of the reaction vessel. The resulting mixture was stirred for 3.5 hours and filtered. The resulting pasty solid was washed with water, ice-cold ethanol, ether and hexane. After drying thoroughly under high vacuum, the yield of the title compound was 2.6 g.

reactant | hydrochloric acid | 3 ml | Cl | ClH
reactant | 5-(benzyloxy)-2-(hydrazinocarbonyl)-4-oxo-1,4-dihydropyridine | 11.58 mmole, 3 g | C(C1=CC=CC=C1)OC=1C(C=C(NC1)C(=O)NN)=O | C13H13N3O3
reactant | sodium nitrite | 23.17 mmole, 1.68 g | N(=O)[O-].[Na+]
solvent | water | 10 ml | O | H2O
solvent | water | 30 ml | O | H2O
product | 2-(Azidocarbonyl)-5-(benzyloxy)-4-oxo-1,4-dihydropyridine | N(=[N+]=[N-])C(=O)C=1NC=C(C(C1)=O)OCC1=CC=CC=C1 | C13H10N4O3
